US04466976
3.6 g (27 millimoles) of 2-cyanopyrrole-4-carboxylic acid methyl ester, 17 g of Raney nickel, and 450 ml of 75% formic acid are introduced, in a flask, into an oil bath preheated to 120° C. and made to react for one hour. Subsequently, the mixture is poured into 1 liter of ice water and repeatedly extracted with ether. After drying and concentration of the ether phase, 1.4 g (36% of theory) of 2-formylpyrrole-4-carboxylic acid methyl ester is obtained, mp 126° C.

reactant | 2-cyanopyrrole-4-carboxylic acid methyl ester | 27 millimoles, 3.6 g | COC(=O)C=1C=C(NC1)C#N | C7H6N2O2
reactant | formic acid | 450 ml | C(=O)O | CH2O2
catalyst | Raney nickel | 17 g | [Ni] | Ni
product | 2-formylpyrrole-4-carboxylic acid methyl ester | 1.4 g, 36% | COC(=O)C=1C=C(NC1)C=O | C7H7NO3
